US08735379B2
To a solution of compound 2-acetoxybenzoic acid (1.0 g, 5.5 mmol) in THF (30 mL) was added (COCl)2 (0.8 ml, 9.1 mmol) at 0° C. The mixture was heated (reflux, 1.5 h) and concentrated under reduced pressure to afford 2-(chlorocarbonyl)phenyl acetate.

reactant | 2-acetoxybenzoic acid | 5.5 mmol, 1.0 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | (COCl)2 | 9.1 mmol, 0.8 ml | C(=O)(C(=O)Cl)Cl | C2Cl2O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(chlorocarbonyl)phenyl acetate | C(C)(=O)OC1=C(C=CC=C1)C(=O)Cl | C9H7ClO3
